US05554607
3-(2-Chloro-4-methylphenyl)-1-ethyl-2-thioxo-imidazolidin-4-one
The title compound was prepared by the procedure described in Example 28 using 18.3 g of 2-chloro-4-methylphenyl-isothiocyanate, 18.4 g of N-ethyl glycine, 20.2 g of triethyl amine, and 300 mL of chloroform. Crystallization from ethyl acetate afforded the title compound (5.8 g) as a peach solid, m.p. 126°-128° C. Anal. Calcd. for. C12H13Cl N2O S: C, 53.63; H, 4.88; N, 10.42. Found: C, 53.50; H, 4.76; N, 10.28. Mass spectrum (+FAB, IM+H]+) m/z 269/271.

reactant | 2-chloro-4-methylphenyl-isothiocyanate | 18.3 g | ClC1=C(C=CC(=C1)C)N=C=S | C8H6ClNS
reactant | N-ethyl glycine | 18.4 g | C(C)NCC(=O)O | C4H9NO2
reactant | triethyl amine | 20.2 g | C(C)N(CC)CC | C6H15N
solvent | chloroform | 300 mL | C(Cl)(Cl)Cl | CHCl3
product | 3-(2-Chloro-4-methylphenyl)-1-ethyl-2-thioxo-imidazolidin-4-one | 5.8 g | ClC1=C(C=CC(=C1)C)N1C(N(CC1=O)CC)=S | C12H13ClN2OS
